US09107916B2
A. 2-{5-[(4-bromobenzyl)oxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (4-bromophenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 5.19 (2H, s), 5.72 (1H, s), 7.30-7.32 (2H, m), 7.41 (1H, d, J=0.8 Hz, J=5.2 Hz), 7.52-7.54 (2H, m), 7.56 (1H, d, J=0.8 Hz), 8.03 (1H, s), 8.69 (1H, d, J=4.0 Hz). [M+H] Calc'd for C16H11BrN4O, 355. Found, 355.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (4-bromophenyl)methanol | BrC1=CC=C(C=C1)CO | C7H7BrO
product | 2-{5-[(4-bromobenzyl)oxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile | BrC1=CC=C(COC2=CC=NN2C2=NC=CC(=C2)C#N)C=C1 | C16H11BrN4O
